US04221585
N-[(2,6-dimethoxypyrimidin-4-yl)aminocarbonyl]-2-chlorobenzenesulfonamide
To a mixture of 1.10 g of 4-amino-2,6-dimethoxypyrimidin in 40 ml methylene chloride at ambient temperature and pressure was added 1.60 g of 2-chlorobenzenesulfonylisocyanate. The reaction was stirred 30 minutes and then refluxed an additional 15 minutes. Volatiles were removed under reduced pressure and the solid thereby obtained was washed with a little diethyl ether; yield 2.30 g, m.p. 193°-196°.

reactant | 4-amino-2,6-dimethoxypyrimidin | 1.10 g | NC1=NC(=NC(=C1)OC)OC | C6H9N3O2
reactant | 2-chlorobenzenesulfonylisocyanate | 1.60 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-[(2,6-dimethoxypyrimidin-4-yl)aminocarbonyl]-2-chlorobenzenesulfonamide | COC1=NC(=CC(=N1)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)Cl)OC | C13H13ClN4O5S
